* File: nand2.pex.netlist.pex
* Created: Fri Apr 29 00:23:12 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2%OUT 3 15 16 21 36 37 39 41 44 46 48
c65 48 0 1.95454e-19
r66 41 44 1.7
r67 38 44 0.118087
r68 38 39 0.081146
r69 36 44 0.102983
r70 36 37 0.081146
r71 33 46 30
r72 30 33 0.674397
r73 30 46 10
r74 27 30 1.01159
r75 27 46 10
r76 24 27 1.01159
r77 24 46 10
r78 21 24 1.01159
r79 21 39 0.598527
r80 21 46 10
r81 17 37 0.0874363
r82 15 17 0.0479332
r83 15 16 0.212982
r84 13 48 10
r85 10 13 0.582909
r86 10 48 10
r87 7 10 0.582909
r88 7 48 10
r89 3 7 0.592624
r90 3 48 10
r91 1 16 0.0479332
r92 1 13 0.276882
.ends

.subckt PM_NAND2%GND! 1 2 8 11 26
c33 26 0 1.95454e-19
r34 20 26 10
r35 17 20 0.582909
r36 17 26 10
r37 14 17 0.582909
r38 14 26 10
r39 11 14 0.592624
r40 11 26 10
r41 9 11 0.582909
r42 4 8 0.156414
r43 2 9 0.0515295
r44 2 8 0.144756
r45 1 4 15
.ends

.subckt PM_NAND2%VDD! 1 4 19 25 28 45 46
c41 19 0 3.90378e-19
r42 41 46 30
r43 38 41 0.501133
r44 38 46 10
r45 35 38 0.7517
r46 35 46 10
r47 32 35 0.7517
r48 32 46 10
r49 28 32 0.7517
r50 28 46 10
r51 26 41 0.507397
r52 22 25 0.171307
r53 20 22 0.0374213
r54 19 26 0.053567
r55 19 25 0.148854
r56 17 45 30
r57 14 17 0.501133
r58 14 45 10
r59 11 14 0.7517
r60 11 45 10
r61 8 11 0.7517
r62 8 45 10
r63 4 8 0.7517
r64 4 45 10
r65 2 20 0.053567
r66 2 17 0.507397
r67 1 22 15
.ends

.subckt PM_NAND2%A 4 6 9 10 12 14 16 19 20
c51 19 0 1.95454e-19
c52 14 0 1.95189e-19
r53 20 23 25
r54 19 20 1.7
r55 16 19 0.0194031
r56 9 23 4.17508
r57 9 10 0.833027
r58 6 14 141.169
r59 5 10 5.18609
r60 5 6 16.0034
r61 4 10 5.18609
r62 3 12 129.829
r63 3 4 27.5556
.ends

.subckt PM_NAND2%B 4 6 10 12 15 18 23
c46 18 0 1.95454e-19
c47 12 0 1.95189e-19
r48 20 23 5.42761
r49 15 23 25
r50 14 18 0.0194031
r51 14 15 1.7
r52 6 12 141.169
r53 5 20 3.12463
r54 5 6 16.0034
r55 4 20 3.12463
r56 3 10 129.829
r57 3 4 27.5556
.ends

