* File: nor2.pex.netlist.pex
* Created: Fri Apr 29 15:42:21 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR2%OUT 3 10 34 38 41 42 44 45 48 51 53 54 55
c66 41 0 1.39558e-19
r67 47 51 0.0204615
r68 47 48 1.7
r69 43 48 0.0960611
r70 43 44 0.0686638
r71 41 48 0.0836297
r72 41 42 0.0686638
r73 38 55 10
r74 36 38 0.344888
r75 35 45 0.00944082
r76 34 36 0.0479332
r77 34 35 0.851426
r78 31 53 30
r79 28 31 0.388606
r80 28 53 10
r81 25 28 0.582909
r82 25 53 10
r83 22 25 0.582909
r84 22 53 10
r85 19 22 0.582909
r86 19 53 10
r87 16 19 0.582909
r88 16 53 10
r89 13 16 0.582909
r90 13 53 10
r91 10 13 0.582909
r92 10 44 0.344888
r93 10 53 10
r94 6 45 0.0363272
r95 6 42 0.0874363
r96 3 54 10
r97 1 45 0.0363272
r98 1 3 0.344888
.ends

.subckt PM_NOR2%GND! 1 2 9 15 19
c46 2 0 1.39558e-19
r47 9 19 10
r48 7 15 0.0220114
r49 7 9 0.535305
r50 2 15 0.0238874
r51 2 4 0.0437182
r52 1 4 10
.ends

.subckt PM_NOR2%VDD! 1 2 8 11 37
r29 33 37 30
r30 30 33 0.388606
r31 30 37 10
r32 27 30 0.582909
r33 27 37 10
r34 24 27 0.582909
r35 24 37 10
r36 21 24 0.582909
r37 21 37 10
r38 18 21 0.582909
r39 18 37 10
r40 15 18 0.582909
r41 15 37 10
r42 11 15 0.582909
r43 11 37 10
r44 9 33 0.382777
r45 4 8 0.0623689
r46 2 9 0.053567
r47 2 8 0.165485
r48 1 4 10
.ends

.subckt PM_NOR2%A 4 6 10 12 15 17 22
r55 19 22 5.42761
r56 15 22 25
r57 15 17 1.7
r58 6 12 236.024
r59 5 19 3.12463
r60 5 6 16.0034
r61 4 19 3.12463
r62 3 10 31.3709
r63 3 4 34.9744
.ends

.subckt PM_NOR2%B 4 6 10 12 14 17 22
r50 19 22 5.42761
r51 17 22 25
r52 14 17 1.7
r53 6 12 236.024
r54 5 19 3.12463
r55 5 6 16.0034
r56 4 19 3.12463
r57 3 10 31.3709
r58 3 4 34.9744
.ends

