* File: or2.pex.netlist.pex
* Created: Fri Apr 29 16:09:47 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OR2%NET4 4 6 9 10 12 14 17 24 48 52 55 56 58 59 60 62 63 67 68 71 74
+ 75 76 77 78 79
c147 79 0 1.50717e-19
c148 71 0 3.84403e-19
c149 67 0 1.67882e-19
c150 55 0 1.39595e-19
r151 74 81 25
r152 73 74 1.7
r153 71 76 0.104515
r154 71 73 0.0248839
r155 69 76 1.08844
r156 67 69 0.0477651
r157 67 68 0.892108
r158 65 68 0.0477651
r159 65 75 0.124442
r160 62 63 1.7
r161 60 75 0.0762188
r162 60 62 0.0832135
r163 57 63 0.0960611
r164 57 58 0.0686638
r165 55 63 0.0836297
r166 55 56 0.0686638
r167 52 79 10
r168 50 52 0.344888
r169 49 59 0.00944082
r170 48 50 0.0479332
r171 48 49 0.851426
r172 45 77 30
r173 42 45 0.388606
r174 42 77 10
r175 39 42 0.582909
r176 39 77 10
r177 36 39 0.582909
r178 36 77 10
r179 33 36 0.582909
r180 33 77 10
r181 30 33 0.582909
r182 30 77 10
r183 27 30 0.582909
r184 27 77 10
r185 24 27 0.582909
r186 24 58 0.344888
r187 24 77 10
r188 20 59 0.0363272
r189 20 56 0.0874363
r190 17 78 10
r191 15 59 0.0363272
r192 15 17 0.344888
r193 9 81 4.17508
r194 9 10 0.833027
r195 6 14 153.887
r196 5 10 5.18609
r197 5 6 16.0034
r198 4 10 5.18609
r199 3 12 69.9487
r200 3 4 16.0034
.ends

.subckt PM_OR2%GND! 1 2 9 12 15 18 28 34 36
c93 36 0 1.98328e-19
c94 2 0 1.39595e-19
r95 21 36 10
r96 18 21 0.752952
r97 18 36 10
r98 16 28 0.0220114
r99 16 18 1.1739
r100 13 26 0.0238874
r101 13 15 0.374033
r102 12 28 0.0238874
r103 12 15 0.259394
r104 9 34 10
r105 7 26 0.0220114
r106 7 9 0.535305
r107 2 26 0.0238874
r108 2 4 0.0437182
r109 1 28 15
r110 1 4 10
.ends

.subckt PM_OR2%OUT 3 11 26 29 32 34 36 37
c36 32 0 1.86074e-19
r37 32 34 1.7
r38 28 32 0.102894
r39 28 29 0.0611101
r40 26 32 0.101697
r41 26 27 0.0611101
r42 23 36 15
r43 20 23 0.502386
r44 20 36 10
r45 17 20 0.752952
r46 17 36 10
r47 14 17 0.752952
r48 14 36 10
r49 11 14 0.752952
r50 11 29 0.444756
r51 11 36 10
r52 7 27 0.556258
r53 7 37 10
r54 3 7 0.752952
r55 3 37 10
.ends

.subckt PM_OR2%VDD! 1 2 9 36 39 58 63 64
r65 52 64 15
r66 49 52 0.502386
r67 49 64 10
r68 46 49 0.752952
r69 46 64 10
r70 43 46 0.752952
r71 43 64 10
r72 39 43 0.752952
r73 39 64 10
r74 37 58 0.026159
r75 37 52 1.62117
r76 34 56 0.0206178
r77 34 36 0.0374213
r78 33 58 0.0206178
r79 33 36 0.256128
r80 31 63 30
r81 28 31 0.388606
r82 28 63 10
r83 25 28 0.582909
r84 25 63 10
r85 22 25 0.582909
r86 22 63 10
r87 19 22 0.582909
r88 19 63 10
r89 16 19 0.582909
r90 16 63 10
r91 13 16 0.582909
r92 13 63 10
r93 9 13 0.582909
r94 9 63 10
r95 7 56 0.026159
r96 7 31 0.382777
r97 2 56 0.0206178
r98 2 4 0.227854
r99 1 58 15
r100 1 4 10
.ends

.subckt PM_OR2%A 4 6 10 12 15 17 22
c61 15 0 1.67882e-19
r62 19 22 5.42761
r63 15 22 25
r64 15 17 1.7
r65 6 12 236.024
r66 5 19 3.12463
r67 5 6 16.0034
r68 4 19 3.12463
r69 3 10 31.3709
r70 3 4 34.9744
.ends

.subckt PM_OR2%B 4 6 10 12 14 17 22
c66 14 0 1.50717e-19
r67 19 22 5.42761
r68 17 22 25
r69 14 17 1.7
r70 6 12 236.024
r71 5 19 3.12463
r72 5 6 16.0034
r73 4 19 3.12463
r74 3 10 31.3709
r75 3 4 34.9744
.ends

