************************************************************************
* auCdl Netlist:
* 
* Library Name:  MS3
* Top Cell Name: or2
* View Name:     schematic
* Netlisted on:  Apr 29 16:09:27 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: MS3
* Cell Name:    nor2
* View Name:    schematic
************************************************************************

.SUBCKT nor2 A B out
*.PININFO A:I B:I out:O
MMN1 out B gnd! gnd! nfet W=591n L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 PTWELL=0 
+ plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMN0 out A gnd! gnd! nfet W=591n L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 PTWELL=0 
+ plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP1 out B net13 vdd! pfet W=4.454u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMP0 net13 A vdd! vdd! pfet W=4.454u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    inv_1b
* View Name:    schematic
************************************************************************

.SUBCKT inv_1b IN OUT
*.PININFO IN:I OUT:O
MMP0 OUT IN vdd! vdd! pfet W=2.904u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ pccrit=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 sa=160n sb=160n sd=0 p_vta=0 
+ panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p panw8=0p 
+ panw9=0p panw10=0p
MMN0 OUT IN gnd! gnd! nfet W=1.32u L=60n M=1 NF=1 MPL=1 mSwitch=0 idg=0 
+ PTWELL=0 plnest=-1.0 plorient=-1.0 pld200=-1.0 pccrit=0 sa=160n sb=160n sd=0 
+ p_vta=0 panw1=0p panw2=0p panw3=0p panw4=0p panw5=0p panw6=0p panw7=0p 
+ panw8=0p panw9=0p panw10=0p
.ENDS

************************************************************************
* Library Name: MS3
* Cell Name:    or2
* View Name:    schematic
************************************************************************

.SUBCKT or2 A B OUT
*.PININFO A:I B:I OUT:O
XI2 A B net4 / nor2
XI3 net4 OUT / inv_1b
.ENDS

