* File: xor2.pex.netlist
* Created: Sun May  1 15:52:56 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* 
.include "xor2.pex.netlist.pex"
.subckt xor2  GND! OUT B VDD! C
* 
* C	C
* VDD!	VDD!
* B	B
* OUT	OUT
* GND!	GND!
XD0_noxref N_GND!_D0_noxref_pos N_VDD!_D0_noxref_neg DIODENWX  AREA=8.06896e-12
+ PERIM=1.2344e-05
XMMN4 N_NET27_MMN4_d N_C_MMN4_g N_GND!_MMN4_s N_GND!_D0_noxref_pos NFET L=6e-08
+ W=1.32e-06 AD=2.112e-13 AS=2.112e-13 PD=2.96e-06 PS=2.96e-06 NRD=0.0757576
+ NRS=0.0757576 M=1 NF=1 CNR_SWITCH=0 PCCRIT=0 PAR=1 PTWELL=0 SA=1.6e-07
+ SB=1.6e-07 SD=0 PANW1=4.44e-15 PANW2=3e-15 PANW3=3e-15 PANW4=3e-15 PANW5=3e-15
+ PANW6=6e-15 PANW7=1.2e-14 PANW8=1.2e-14 PANW9=2.4e-14 PANW10=8.76e-15
XMMN0 N_OUT_MMN0_d N_NET27_MMN0_g N_B_MMN0_s N_GND!_D0_noxref_pos NFET L=6e-08
+ W=1.32e-06 AD=2.112e-13 AS=2.112e-13 PD=2.96e-06 PS=2.96e-06 NRD=0.0757576
+ NRS=0.0757576 M=1 NF=1 CNR_SWITCH=0 PCCRIT=0 PAR=1 PTWELL=0 SA=1.6e-07
+ SB=1.6e-07 SD=0 PANW1=4.44e-15 PANW2=3e-15 PANW3=3e-15 PANW4=3e-15 PANW5=3e-15
+ PANW6=6e-15 PANW7=1.2e-14 PANW8=1.2e-14 PANW9=2.4e-14 PANW10=8.76e-15
XMMN1 N_OUT_MMN1_d N_B_MMN1_g N_NET27_MMN1_s N_GND!_D0_noxref_pos NFET L=6e-08
+ W=1.32e-06 AD=2.112e-13 AS=2.112e-13 PD=2.96e-06 PS=2.96e-06 NRD=0.0757576
+ NRS=0.0757576 M=1 NF=1 CNR_SWITCH=0 PCCRIT=0 PAR=1 PTWELL=0 SA=1.6e-07
+ SB=1.6e-07 SD=0 PANW1=4.44e-15 PANW2=3e-15 PANW3=3e-15 PANW4=3e-15 PANW5=3e-15
+ PANW6=6e-15 PANW7=1.2e-14 PANW8=1.2e-14 PANW9=2.4e-14 PANW10=8.76e-15
XMMP4 N_NET27_MMP4_d N_C_MMP4_g N_VDD!_MMP4_s N_VDD!_D0_noxref_neg PFET L=6e-08
+ W=2.904e-06 AD=4.6464e-13 AS=4.6464e-13 PD=6.128e-06 PS=6.128e-06
+ NRD=0.0344353 NRS=0.0344353 M=1 NF=1 CNR_SWITCH=0 PCCRIT=0 PAR=1 PTWELL=1
+ SA=1.6e-07 SB=1.6e-07 SD=0 PANW1=4.44e-15 PANW2=9.012e-14 PANW3=9.012e-14
+ PANW4=3e-15 PANW5=3e-15 PANW6=6e-15 PANW7=1.2e-14 PANW8=1.2e-14
+ PANW9=3.828e-14 PANW10=2.4624e-13
XMMP0 N_OUT_MMP0_d N_C_MMP0_g N_B_MMP0_s N_VDD!_D0_noxref_neg PFET L=6e-08
+ W=2.904e-06 AD=4.6464e-13 AS=4.6464e-13 PD=6.128e-06 PS=6.128e-06
+ NRD=0.0344353 NRS=0.0344353 M=1 NF=1 CNR_SWITCH=1 PCCRIT=0 PAR=1 PTWELL=1
+ SA=1.6e-07 SB=1.6e-07 SD=0 PANW1=0 PANW2=0 PANW3=0 PANW4=0 PANW5=0 PANW6=0
+ PANW7=1.272e-14 PANW8=2.2728e-13 PANW9=1.932e-13 PANW10=7.2e-14
XMMP1 N_OUT_MMP1_d N_B_MMP1_g N_C_MMP1_s N_VDD!_D0_noxref_neg PFET L=6e-08
+ W=2.904e-06 AD=4.6464e-13 AS=4.6464e-13 PD=6.128e-06 PS=6.128e-06
+ NRD=0.0344353 NRS=0.0344353 M=1 NF=1 CNR_SWITCH=0 PCCRIT=0 PAR=1 PTWELL=1
+ SA=1.6e-07 SB=1.6e-07 SD=0 PANW1=0 PANW2=8.712e-14 PANW3=8.712e-14 PANW4=0
+ PANW5=0 PANW6=0 PANW7=1.272e-14 PANW8=2.4e-14 PANW9=4.8e-14 PANW10=2.4624e-13
*
.include "xor2.pex.netlist.XOR2.pxi"
*
.ends
*
*
